US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-{4-[(4-methylpiperazin-1-yl)carbonyl]morpholin-2-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine
A solution of 5-(2-benzyl-2H-indazol-6-yl)-7-morpholin-2-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (59.1 mg, 0.11 mmol) in dichloromethane (1 mL) was cooled to 0° C. and treated with 4-methylpiperazine-1-carbonyl chloride (18 mg, 0.11 mmol) and N-methylmorpholine (28 mg, 0.28 mmol). After stirring for 1 h at rt, the reaction was diluted with 1 mL MeOH and diluted with EtOAc and 1N sodium carbonate solution. The organic layer was dried with sodium sulfate and concentrated in vacuo. The residue was triturated with acetonitrile to provide 41 mg (67%) of the desired product as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ 8.55 (s, 1 H), 7.95 (d, 1 H, J=3 Hz), 7.81 (d, 1 H, J=9 Hz), 7.61 (s, 1 H), 7.27-7.40 (m, 5H), 7.14 (d, 1H, J=9 Hz), 6.81 (d, 1 H, J=4 Hz), 5.65 (s, 2 H), 5.10-5.15 (m, 1H), 4.45-4.55 (m, 1 H), 3.95-4.25 (m, 3H), 3.65-3.85 (m, 3H), 3.49-3.60 (m, 1H), 3.30 (s, 3H), 3.35-3.25 (m, 1H), 3.14-3.25 (m, 1H); ES-MS Ink 552.1 [M+H]+, HPLC RT (min) 2.21.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-morpholin-2-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.11 mmol, 59.1 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCCO2 | C24H23N7O
reactant | 4-methylpiperazine-1-carbonyl chloride | 0.11 mmol, 18 mg | CN1CCN(CC1)C(=O)Cl | C6H11ClN2O
reactant | N-methylmorpholine | 0.28 mmol, 28 mg | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | MeOH | 1 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | sodium carbonate | 1N | C([O-])([O-])=O.[Na+].[Na+]
product | 5-(2-benzyl-2H-indazol-6-yl)-7-{4-[(4-methylpiperazin-1-yl)carbonyl]morpholin-2-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 41 mg, 67% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CCO2)C(=O)N2CCN(CC2)C | C30H33N9O2
